US06960666B2
Part D. Preparation 2,3,3a,4,9,9a-hexahydro-1H-benz[f]isoindole.
To a stirred solution of potassium hydroxide (8.67 g, 154.6 mmol) in 100 mL of methanol was trans-2-trifluoroacetyl-2,3,3a,4,9,9a-hexahydro-1H-benz[f]isoindole (8.32 g, 30.91 mmol), and the mixture was stirred at room temperature for four hours. The mixture was concentrated in-vacuo, and the residue was partitioned between diethyl ether and water. The layers were separated, and the aqueous phase was extracted with three 200 mL portions of diethyl ether. The combined organic phases were dried over sodium sulfate, and concentrated in-vacuo to a yellow oil. The oil was purified by flash chromatography on an 8×15 cm silica column, eluting with a 40:10:1 mixture of methylene chloride, methanol, and 25% aqueous ammonium hydroxide. Obtained 2.5 g of the trans isomer as a white solid, and 2.0 g of the cis isomer as a pale yellow solid. Yield=46% (trans), 37% (cis). NMR (trans) (300 MHz, CDCl3) δ 7.12 (m, 4H), 3.36-3.31 (m, 2H), 3.08-3.03 (m, 2H), 2.71-2.58 (m, 4H), 2.46 (bs, 1H), 1.90 (m, 2H).

reactant | potassium hydroxide | 154.6 mmol, 8.67 g | [OH-].[K+]
reactant | trans-2-trifluoroacetyl-2,3,3a,4,9,9a-hexahydro-1H-benz[f]isoindole | 30.91 mmol, 8.32 g | FC(C(=O)N1C[C@H]2CC3=C(C[C@@H]2C1)C=CC=C3)(F)F | C14H14F3NO
solvent | methanol | 100 mL | CO | CH4O
product | 2,3,3a,4,9,9a-hexahydro-1H-benz[f]isoindole | Yield=46% | C1NCC2CC3=C(CC12)C=CC=C3 | C12H15N
